US04873224
1-(4-Nitrophenoxycarbonyl)-4-methylpiperazine
A solution of 4-nitrophenyl chloroformate, 5.04 g (25 mMole) in 25 ml of dry ethyl acetate was added dropwise to an ice bath cooled, stirred solution of N-methylpiperazine, 5.55 ml (50 mMole), and N,N-diisopropylethylamine, 5.23 ml (30 mMole), in 50 ml of dry ethyl acetate. The ice bath was removed and stirring was continued at 22° C. for three hours. The thick reaction mixture was diluted with ethyl acetate, extracted with aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over sodium sulfate and evaporated under reduced pressure. The solid residue was recrystallized from methylene chloride hexane furnishing 3.67 g of 1-(4-nitro-phenoxycarbonyl)-4-methylpiperazine, m.p. 134°-135° C., which was characterized by nuclear magnetic resonance, mass spectra, infrared spectra and elemental analyses.

reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Nitrophenoxycarbonyl)-4-methylpiperazine | [N+](=O)([O-])C1=CC=C(OC(=O)N2CCN(CC2)C)C=C1 | C12H15N3O4
